US05952351
A suspension of 1-ethoxycarbonyl-4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine (5.22 g, 17 mmol.) in 2 N NaOH (55 mL) was refluxed for twelve hours. The clear amber solution was cooled to room temp. and solid NH4Cl (5.9 g, 110 mmol.) was added to neutralized the hydroxide. After addition of aq. Na2CO3 and 5N NaOH (2 mL), the product was extracted into chloroform. The extract was dried (Na2SO4) and filtered through a pad of charcoal and then evaporated to give 4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine as a pale yellow viscous oil.

reactant | 1-ethoxycarbonyl-4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine | 17 mmol, 5.22 g | C(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O | C15H18FN3O3
reactant | NH4Cl | 110 mmol, 5.9 g | [NH4+].[Cl-]
reactant | hydroxide | [OH-]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | NaOH | 2 N, 55 mL | [OH-].[Na+]
solvent | NaOH | 5N, 2 mL | [OH-].[Na+]
product | 4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
